US06911463B2
{1,1-Dimethyl-2-[7-(2-[1,2,4]triazol-1-yl-vinyl)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester is prepared from [1,1-dimethyl-2-(7-trifluoromethanesulfonyhnethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester and 1-vinyl-1,2,4-triazole as described for the preparation of Amine 23 (93%). FDMS m/e=381.2 (M++1).

reactant | [1,1-dimethyl-2-(7-trifluoromethanesulfonyhnethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)CS(=O)(=O)C(F)(F)F)(C)C)=O | C19H25F3N2O4S
reactant | 1-vinyl-1,2,4-triazole | C(=C)N1N=CN=C1 | C4H5N3
product | {1,1-Dimethyl-2-[7-(2-[1,2,4]triazol-1-yl-vinyl)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)C=CN1N=CN=C1)(C)C)=O | C21H27N5O2
